US09062046B2
Step 1: N-(5-bromo-4-methylpyridin-2-yl)acetamide
5-bromo-4-methylpyridin-2-amine (0.578 mmol) was dissolved in acetic anhydride (5.78 mmol) and heated at 110° C. for 30 minutes. The reaction was quenched with ice. The aqueous reaction mixture neutralized with sodium hydroxide solution was extracted with ethyl acetate. The ethyl acetate layer was separated and dried over sodium sulfate. The organic layer was evaporated to dryness. The crude material was purified (silica column, MeOH/CHCl3). 1HNMR (300 MHz, DMSO-d6): 10.53 (s, 1H), 8.34 (s, 1H), 8.06 (s, 1H), 2.30 (s, 3H), 2.05 (s, 3H); MS (m/z): 231 (M+2)+.

reactant | 5-bromo-4-methylpyridin-2-amine | 0.578 mmol | BrC=1C(=CC(=NC1)N)C | C6H7BrN2
reactant | acetic anhydride | 5.78 mmol | C(C)(=O)OC(C)=O | C4H6O3
product | N-(5-bromo-4-methylpyridin-2-yl)acetamide | BrC=1C(=CC(=NC1)NC(C)=O)C | C8H9BrN2O
